US04285867
Methyl 3-benzyloxybenzoate
A mixture of 1564 g. (10.2 mole) of methyl 3-hydroxybenzoate, 1407.6 g. (10.2 mole) potassium carbonate and 1285.2 g. (10.2 mole) benzyl chloride in 5 . of acetone is heated at reflux for 22 hours. The reaction mixture is then cooled, filtered and the filtrate evaporated. The residue is crystallized in a small volume of pentane to give a quantitative yield of the title compound.

reactant | methyl 3-hydroxybenzoate | 10.2 mole | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium carbonate | 10.2 mole | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 10.2 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 3-benzyloxybenzoate | quantitative yield | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1 | C15H14O3
